* D:\Program Files (xtra)\all\CoolStuff\audio-power-amplifier\Simulations\Transformer.asc
L1 N002 0 25 Rser=1
L2 0 N001 1 Rser=1
V1 N002 0 SINE(0 169.7 60) Rser=0
L3 0 N004 1
D1 N001 V+ D
D2 V- N001 D
D3 0 V+ D
D4 V- 0 D
D5 N004 N005 D
D6 N008 N004 D
D7 0 N005 D
D8 N008 0 D
C1 V+ 0 0.1µ
C2 0 V- 0.1µ
C3 V+ 0 0.1µ
C4 0 V- 0.1µ
R1 N003 INPUT 1k
R2 0 N006 1k
R3 N006 OUTPUT 20k
C5 N007 0 0.1µ
R4 N007 NC_01 100
R5 OUTPUT 0 4
V2 INPUT 0 SINE(0 1 5000k)
XU1 N003 N006 V+ V- OUTPUT N007 lm3886
.model D D
.lib C:\Users\Eren\Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 L3 1
.tran 10
.lib C:\Users\Eren\Downloads\snam041b\LM3886.lib
.backanno
.end
